US07960567B2
2-(3-Chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid (20.3).
Under an N2 atmosphere, 5-fluoro-2-methyl-4-nitro-1H-benzo[d]imidazole (0.233 g, 1.19 mmol) was treated with Al2O3 supported potassium fluoride (0.583 g, 40 wt. %), 3-chloro-4-hydroxyphenylacetic acid (0.223 g, 1.19 mmol) and 18-crown-6 (0.031 g, 0.119 mmol) in DMSO (1 mL). The reaction was heated 80° C. for 20 h. Upon cooling to room temperature, the reaction was diluted with water and 1N HCl was added to pH 5. The reaction was extracted with ethyl acetate (3×). The organics were combined, dried (Na2SO4), filtered and concentrated in vacuo. Flash column chromatography of the residue, eluting with 0% to 10% methanol in dichloromethane, afforded the title compound. LC-MS ESI (pos.) m/z: 362.0 (M+H).

reactant | 5-fluoro-2-methyl-4-nitro-1H-benzo[d]imidazole | 1.19 mmol, 0.233 g | FC1=C(C2=C(NC(=N2)C)C=C1)[N+](=O)[O-] | C8H6FN3O2
reactant | potassium fluoride | 0.583 g | [F-].[K+]
reactant | 3-chloro-4-hydroxyphenylacetic acid | 1.19 mmol, 0.223 g | ClC=1C=C(C=CC1O)CC(=O)O | C8H7ClO3
reactant | 18-crown-6 | 0.119 mmol, 0.031 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | HCl | 1N | Cl | ClH
product | 2-(3-Chloro-4-(2-methyl-4-nitro-1H-benzo[d]imidazol-5-yloxy)phenyl)acetic acid | ClC=1C=C(C=CC1OC1=C(C2=C(NC(=N2)C)C=C1)[N+](=O)[O-])CC(=O)O | C16H12ClN3O5
